US07186724B2
1-Dimethoxymethyl-2-fluoro-4-trifluoromethyl-benzene.
A solution of 2-fluoro-4-trifluoromethylbenzaldehyde (10.0 g, 52.0 mmol), trimethyl orthoformate (55.0 g, 520 mmol) and a catalytic amount of p-toluene sulfonic acid (5 mol %) was stirred at room temperature for 24 hours. The resulting solution was saturated with the addition of solid Na2CO3 and stirred for 15 minutes. The mixture was then filtered and the solution was evaporated. The residue was diluted with ether and evaporated yielding 12.1 g (98%) of the desired product as an oil.

reactant | 2-fluoro-4-trifluoromethylbenzaldehyde | 52.0 mmol, 10.0 g | FC1=C(C=O)C=CC(=C1)C(F)(F)F | C8H4F4O
reactant | trimethyl orthoformate | 520 mmol, 55.0 g | C(OC)(OC)OC | C4H10O3
reactant | p-toluene sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
product | 1-Dimethoxymethyl-2-fluoro-4-trifluoromethyl-benzene | 12.1 g, 98% | COC(C1=C(C=C(C=C1)C(F)(F)F)F)OC | C10H10F4O2
